### PR TITLE
[Merged by Bors] - feat: change `ConcreteCategory.hasCoeToFun` to `FunLike`

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/Basic.lean [hunk 1]
```diff
@@ -136,6 +136,8 @@ def _root_.RingEquiv.toSemiRingCatIso [Semiring X] [Semiring Y] (e : X ≃+* Y)
     SemiRingCat.of X ≅ SemiRingCat.of Y where
   hom := e.toRingHom
   inv := e.symm.toRingHom
+  hom_inv_id := by ext; erw [comp_apply, id_apply, e.symm_apply_apply]
+  inv_hom_id := by ext; erw [comp_apply, id_apply, e.apply_symm_apply]
```
Comment (semorrison) [inline Mathlib/Algebra/Category/Ring/Basic.lean:140]: :-(

Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Basic.lean:140]: It's because `symm_apply_apply`

Comment (semorrison) [reply Mathlib/Algebra/Category/Ring/Basic.lean:140]: How would you feel about:
```
@[simp]
lemma foo [Semiring X] [Semiring Y] (e : X ≃+* Y) :
  ↑(RingEquiv.toRingHom e) = ↑e := rfl

@[simp]
lemma bar [Semiring X] [Semiring Y] (e : X ≃+* Y) :
    (@FunLike.coe (of X ⟶ of Y) _ (fun _ => (forget SemiRingCat).obj _)
      ConcreteCategory.funLike (e : X →+* Y) : X → Y) = ↑e :=
  rfl

@[simps]
def _root_.RingEquiv.toSemiRingCatIso [Semiring X] [Semiring Y] (e : X ≃+* Y) :
    SemiRingCat.of X ≅ SemiRingCat.of Y where
  hom := (e : X →+* Y)
  inv := (e.symm : Y →+* X)
```

Comment (semorrison) [reply Mathlib/Algebra/Category/Ring/Basic.lean:140]: Unfortunately `bar` would need to come in separate versions also for `Ring` and `CommRing`.

File: Mathlib/CategoryTheory/Limits/ConcreteCategory.lean [hunk 2]
```diff
@@ -95,7 +95,9 @@ theorem Concrete.multiequalizer_ext {I : MulticospanIndex.{w} C} [HasMultiequali
   apply Concrete.limit_ext
   rintro (a | b)
   · apply h
-  · rw [← limit.w I.multicospan (WalkingMulticospan.Hom.fst b), comp_apply, comp_apply, h]
+  · rw [← limit.w I.multicospan (WalkingMulticospan.Hom.fst b), comp_apply, comp_apply]
+    erw [h]
+    rfl
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Limits/ConcreteCategory.lean:100]:
```suggestion
  · rw [← limit.w I.multicospan (WalkingMulticospan.Hom.fst b), comp_apply, comp_apply]
    dsimp at *
    rw [h]
```
suffices here. (I think it's nicer like this, as we can then see that our `dsimp` lemmas are achieving a good form, whereas with an `erw` we could be doing an arbitrarily hard defeq problem.)

File: Mathlib/CategoryTheory/Sites/Sheafification.lean [hunk 3]
```diff
@@ -166,14 +166,15 @@ def mk {X : C} {P : Cᵒᵖ ⥤ D} {S : J.Cover X} (x : Meq P S) : (J.plusObj P)
 theorem res_mk_eq_mk_pullback {Y X : C} {P : Cᵒᵖ ⥤ D} {S : J.Cover X} (x : Meq P S) (f : Y ⟶ X) :
     (J.plusObj P).map f.op (mk x) = mk (x.pullback f) := by
   dsimp [mk, plusObj]
-  simp only [← comp_apply, colimit.ι_pre, ι_colimMap_assoc]
+  erw [← comp_apply, ι_colimMap_assoc, colimit.ι_pre]
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Sites/Sheafification.lean:169]:
```suggestion
  erw [← comp_apply]
  rw [ι_colimMap_assoc, colimit.ι_pre]
```
I think it's nice to minimize the span during which we need to resort to `erw`. It costs a few keystrokes but typically every `erw` is a sign things aren't quite right, so I'd prefer to make it as explicit as possible.

(Obviously mathlib does not do this consistently, so feel free to ignore this one if you disagree.)

File: Mathlib/Topology/Category/TopCat/Basic.lean [hunk 4]
```diff
@@ -134,8 +134,8 @@ set_option linter.uppercaseLean3 false in
 def homeoOfIso {X Y : TopCat.{u}} (f : X ≅ Y) : X ≃ₜ Y where
   toFun := f.hom
   invFun := f.inv
-  left_inv x := by simp
-  right_inv x := by simp
+  left_inv x := by simp [←comp_apply, id_apply]
+  right_inv x := by simp [←comp_apply, id_apply]
```
Comment (semorrison) [inline Mathlib/Topology/Category/TopCat/Basic.lean:138]: We should instead have

```
attribute [elementwise (attr := simp)] Iso.hom_inv_id Iso.inv_hom_id
```
somewhere central. (I guess `CategoryTheory.ConcreteCategory.Elementwise`.)

Perhaps other places where you had to rewrite by `←comp_apply` could also benefit from more `elementwise` attributes.

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 5]
```diff
@@ -195,6 +196,10 @@ theorem range_pullback_map {W X Y Z S T : TopCat} (f₁ : W ⟶ S) (f₂ : X ⟶
   ext
   constructor
   · rintro ⟨y, rfl⟩
+    simp only [Set.mem_inter_iff, Set.mem_preimage, Set.mem_range]
+    refine ⟨⟨(pullback.fst (f := f₁) (g := f₂) y), ?_⟩,
+      ⟨(pullback.snd (f := f₁) (g := f₂) y), ?_⟩⟩ <;>
+    rw [←comp_apply, ←comp_apply] <;>
```
Comment (semorrison) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:202]: Do you know what caused this regression?

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 6]
```diff
@@ -52,9 +52,8 @@ def pullbackCone (f : X ⟶ Z) (g : Y ⟶ Z) : PullbackCone f g :=
     (by
       dsimp [pullbackFst, pullbackSnd, Function.comp]
       ext ⟨x, h⟩
-      simp only [TopCat.comp_app]
-      simp only [hom_apply]
-      simp [h, ← hom_apply])
+      rw [comp_apply, ContinuousMap.coe_mk, comp_apply, ContinuousMap.coe_mk]
+      exact h)
```
Comment (semorrison) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:56]: Are we missing here a version of `ContinuousMap.coe_mk` that refers to the new FunLike instance? I would like to just be able to invoke it via `simp` here. (and the next few proofs).

Comment (semorrison) [reply Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:56]: Oh, the bigger problem is that you've had to write `exact h` instead of `simp [h]` because of the competing `FunLike` instances.

Comment (semorrison) [reply Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:56]: (Ah, as you explained at https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/coe.20conflict.20in.20concrete.20categories/near/363591060. Sorry to be slow.)

File: Mathlib/Algebra/Category/Ring/Basic.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Basic.lean:140]: `foo` is already in mathlib4 under
```lean
@[simp, norm_cast]
theorem coe_toRingHom (f : R ≃+* S) : ⇑(f : R →+* S) = f :=
  rfl
#align ring_equiv.coe_to_ring_hom RingEquiv.coe_toRingHom
```

Let me make `bars`

Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Basic.lean:140]: While making `bars`, I find that `CommSemiRing` is not named `CommSemiRingCat` which I think is an unintentional mistake, I am going to make another PR to fix this

File: Mathlib/CategoryTheory/Sites/Sheafification.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Sites/Sheafification.lean:169]: I agree, let me try if I can make this `erw` go away even

File: Mathlib/Topology/Category/TopCat/Basic.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/Topology/Category/TopCat/Basic.lean:138]: Or adding `attribute [elementwise (attr := simp)] Iso.hom_inv_id Iso.inv_hom_id` will make 
```
  left_inv x := by simp
  right_inv x := by simp
```
work

File: Mathlib/CategoryTheory/Limits/ConcreteCategory.lean [hunk 7]
```diff
@@ -95,7 +95,9 @@ theorem Concrete.multiequalizer_ext {I : MulticospanIndex.{w} C} [HasMultiequali
   apply Concrete.limit_ext
   rintro (a | b)
   · apply h
-  · rw [← limit.w I.multicospan (WalkingMulticospan.Hom.fst b), comp_apply, comp_apply, h]
+  · rw [← limit.w I.multicospan (WalkingMulticospan.Hom.fst b), comp_apply, comp_apply]
+    dsimp
+    rw [h]
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/ConcreteCategory.lean:100]:
```suggestion
    simp [h]
```
Does this work?

File: Mathlib/CategoryTheory/Sites/Sheafification.lean [hunk 8]
```diff
@@ -166,14 +166,16 @@ def mk {X : C} {P : Cᵒᵖ ⥤ D} {S : J.Cover X} (x : Meq P S) : (J.plusObj P)
 theorem res_mk_eq_mk_pullback {Y X : C} {P : Cᵒᵖ ⥤ D} {S : J.Cover X} (x : Meq P S) (f : Y ⟶ X) :
     (J.plusObj P).map f.op (mk x) = mk (x.pullback f) := by
   dsimp [mk, plusObj]
-  simp only [← comp_apply, colimit.ι_pre, ι_colimMap_assoc]
+  erw [← comp_apply]
+  rw [ι_colimMap_assoc, colimit.ι_pre]
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Sites/Sheafification.lean:170]: Do you understand why you need `erw` instead of `simp`? This seems to be a common pattern in this PR.

**Review by jcommelin — COMMENTED** [review]
Thank you so much for your work on this PR. It seems that we have to weigh different options and make tradeoffs. I don't think we have quite found the local optimum for the API yet.

But it seems this PR will help a lot when we want to port AG, right? So maybe we should just go for it. And we can try to get an even smoother PR in the future.

@adamtopaz Could you please take a look at this one?

File: Mathlib/CategoryTheory/Sites/Sheafification.lean (hunk 8 above)
Comment (adamtopaz) [reply Mathlib/CategoryTheory/Sites/Sheafification.lean:170]: I can't seem to figure out why `erw` is needed here...

Comment (adamtopaz) [reply Mathlib/CategoryTheory/Sites/Sheafification.lean:170]: My (unverified) guess is that `(Meq.equiv P S).symm x` is some element of `multiequalizer ...` whereas the morphism has a domain of the form `(diagram _ _).obj _`. The two are (obviously) defeq, but lean may have a hard time with the mismatch.

**Comment by adamtopaz** [comment]
My general thoughts about this: 
1. I think this is a step in the right direction, but as Johan pointed out, there are still various issues.
2. I think the long-term solution should be to make morphisms in `Type _` into a one-field structure (and similarly for the various algebraic/topological categories). But this would be a very serious refactor that we shouldn't do until after the port is finished.

File: Mathlib/CategoryTheory/Sites/Sheafification.lean (hunk 8 above)
Comment (jcommelin) [reply Mathlib/CategoryTheory/Sites/Sheafification.lean:170]: So I guess there should be a (d)simp lemma that allows writing back and forth between the two exprs?

File: Mathlib/CategoryTheory/Limits/ConcreteCategory.lean (hunk 7 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Limits/ConcreteCategory.lean:100]: Yes it works! Thanks

File: Mathlib/CategoryTheory/Sites/Sheafification.lean (hunk 8 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Sites/Sheafification.lean:170]: Thanks to Adam's code, I found out that `rw [← comp_apply (x := (Meq.equiv P S).symm x) ...` works. So Lean needs to know about what `x` is

File: Mathlib/Topology/Category/TopCat/Limits/Basic.lean [hunk 9]
```diff
@@ -115,7 +115,9 @@ def limitConeInfiIsLimit (F : J ⥤ TopCatMax.{v, u}) : IsLimit (limitConeInfi.{
     (fun s => ⟨fun v => ⟨ fun j => (Functor.mapCone forget s).π.app j v, ?_⟩, ?_⟩) fun s => ?_
   · dsimp [Functor.sections]
     intro _ _ _
-    rw [←comp_apply, ←s.π.naturality]
+    rw [forget_map_eq_coe, forget_map_eq_coe]
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Topology/Category/TopCat/Limits/Basic.lean:118]: This (being a longer one line still works)
```
rw [←comp_apply', forget_map_eq_coe, ←s.π.naturality, forget_map_eq_coe]
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 10]
```diff
@@ -169,10 +166,14 @@ theorem range_pullback_to_prod {X Y Z : TopCat} (f : X ⟶ Z) (g : Y ⟶ Z) :
...
-    · conv_rhs => rw [hom_apply]
-      simp
+    · rw [←comp_apply, prod.comp_lift, ←comp_apply, limit.lift_π]
+      simp only [pair_obj_left, BinaryFan.mk_pt, BinaryFan.π_app_left, BinaryFan.mk_fst,
+        pullbackIsoProdSubtype_inv_fst]
+      rfl
+    · rw [←comp_apply, prod.comp_lift, ←comp_apply, limit.lift_π]
+      simp only [pair_obj_right, BinaryFan.mk_pt, BinaryFan.π_app_right, BinaryFan.mk_snd,
+        pullbackIsoProdSubtype_inv_snd]
+      rfl
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:176]: I have made this much better (closer to original mathlib3 proof)

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 11]
```diff
@@ -210,9 +213,16 @@ theorem range_pullback_map {W X Y Z S T : TopCat} (f₁ : W ⟶ S) (f₂ : X ⟶
...
+    simp only [cospan_one, Category.assoc, limit.lift_π, PullbackCone.mk_pt, PullbackCone.mk_π_app,
+      Functor.const_obj_obj, pullbackIsoProdSubtype_inv_fst_assoc]
+    rw [←this, comp_apply, comp_apply, comp_apply, ←hx₁]
+    congr
+  · rw [←comp_apply, ←comp_apply, Category.assoc, limit.lift_π,
+      PullbackCone.mk_π_app, pullbackIsoProdSubtype_inv_fst_assoc, comp_apply, comp_apply]
+    exact hx₁
+  · rw [←comp_apply, ←comp_apply, Category.assoc, limit.lift_π,
+      PullbackCone.mk_π_app, pullbackIsoProdSubtype_inv_snd_assoc, comp_apply, comp_apply]
+    exact hx₂
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:225]: This is also shortened

**Comment by jjaassoonn** [comment]
Can you have a look at this again @jcommelin, I have shortened the proofs you pointed out. Thanks

**Review by jcommelin — APPROVED** [review]
This looks really good now. Let's go ahead with it!

bors merge

**Comment by semorrison** [comment]
bors merge
